US08309580B2
(1) 3,3-dimethyl-1-(2-methyl-5-phenylfuran-3-yl)butan-1-ol
To a solution of 2-methyl-5-phenylfuran-3-carbaldehyde (1.1 g) in tetrahydrofuran (20 mL) was added dropwise 1N chloro(2,2-dimethylpropyl)magnesium-tetrahydrofuran solution (9 mL) at 0° C. and, after the completion of the dropwise addition, the mixture was stirred at 0° C. for 1 hr. The reaction mixture was treated with 1N hydrochloric acid, poured into water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column (0% ethyl acetate/hexane to 15% ethyl acetate/hexane) to give the title compound (1.1 g, 70%) as an oil.

reactant | 2-methyl-5-phenylfuran-3-carbaldehyde | 1.1 g | CC=1OC(=CC1C=O)C1=CC=CC=C1 | C12H10O2
reactant | chloro(2,2-dimethylpropyl)magnesium tetrahydrofuran | 1N, 9 mL | Cl[Mg]CC(C)(C)C.O1CCCC1
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | water | O | H2O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 3,3-dimethyl-1-(2-methyl-5-phenylfuran-3-yl)butan-1-ol | 1.1 g, 70% | CC(CC(O)C1=C(OC(=C1)C1=CC=CC=C1)C)(C)C | C17H22O2
